US07582773B2
Step 2: Synthesis of 1-Benzyl-4-bromo-3-methyl-2-phenyl-1H-indole.
The desired product was prepared using a procedure similar to step 2 of example 3. Thus, 4-bromo-3-methyl-2-phenyl-1H-indole (1.467 g, 5.126 mmol) was reacted with k-t-butoxide (0.604 g, 5.383 mmol) and benzyl bromide (0.924 g, 5.383 mmol) in DMF (15 ml) to give the product (1.286 g, 3.651 mmol, 71%) as a colorless oil. 1H DMSO-d6) δ 2.40 (s, 3H), 5.27 (s, 2H), 6.79-6.81 (m, 2H), 6.98 (t, J=7.6 Hz, 1H), 7.15-7.21 (m, 3H), 7.23 (dd, J=0.8, 7.5 Hz, 1H), 7.36-7.38 (m, 3H), 7.43-7.53 (m, 3H); [ESI(+)], m/z 376/378 (M+H)+.

reactant | 4-bromo-3-methyl-2-phenyl-1H-indole | 5.126 mmol, 1.467 g | BrC1=C2C(=C(NC2=CC=C1)C1=CC=CC=C1)C | C15H12BrN
reactant | benzyl bromide | 5.383 mmol, 0.924 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-4-bromo-3-methyl-2-phenyl-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=C(C=CC=C12)Br)C)C1=CC=CC=C1 | C22H18BrN
